US06555577B1
(E)-Ethyl 3-(3,5-dibromophenyl)-acrylate (example109a) was reduced with DIBAL-H by a procedure analogous to that described in example 50b, to give the colourless solid (E)-3-(3,5-dibromophenyl)-prop-2-en-1-ol.

reactant | (E)-Ethyl 3-(3,5-dibromophenyl)-acrylate | BrC=1C=C(C=C(C1)Br)/C=C/C(=O)OCC | C11H10Br2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-(3,5-dibromophenyl)-prop-2-en-1-ol | BrC=1C=C(C=C(C1)Br)/C=C/CO | C9H8Br2O
